US06340759B1
4-(4-Morpholinyl)benzonitrile obtained by reacting 4-fluorobenzonitrile (10.89 g) and morpholine (7.84 g) in the presence of potassium carbonate (12.42 g) in dimethyl sulfoxide (45 ml) was reacted with N-methyl-o-toluamide (8.019 g) according to Example 10-1, to give 6.840 g of 3-[4-(4-morpholinyl)phenyl]isoquinolin-1-one.

reactant | 4-fluorobenzonitrile | 10.89 g | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | morpholine | 7.84 g | N1CCOCC1 | C4H9NO
reactant | potassium carbonate | 12.42 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-methyl-o-toluamide | 8.019 g | CNC(=O)C=1C(=CC=CC1)C | C9H11NO
solvent | dimethyl sulfoxide | 45 ml | CS(=O)C | C2H6OS
product | 3-[4-(4-morpholinyl)phenyl]isoquinolin-1-one | 6.840 g | N1(CCOCC1)C1=CC=C(C=C1)C=1NC(C2=CC=CC=C2C1)=O | C19H18N2O2
